US04176185
A solution of 8-hydroxyquinoline (43.5 g, 0.30 mol) (Aldrich) in 150 ml 2 N potassium hydroxide was refluxed while an ice cold solution of 3-chloropropionic acid (36 g, 0.33 mol) (Aldrich) in 165 ml 2 N potassium hydroxide was added over 15 minutes. The pH of the reaction was maintained at pH 10 by addition of 5 N potassium hydroxide during the addition and the subsequent 1.5 hour reflux period. After cooling and filtration the mixture was brought to pH with 6 N hydrochloric acid and extracted with 6×100 ml chloroform. The aqueous layer was acidified to pH 3.8 with 6 N hydrochloric acid and the precipitate thus formed was filtered and washed thoroughly with water, to yield 3-[8-quinolinoxy]-propionic acid (16.12 g, 25% yield), m.p. 211°-213° C.

reactant | 8-hydroxyquinoline | 0.30 mol, 43.5 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | 3-chloropropionic acid | 0.33 mol, 36 g | ClCCC(=O)O | C3H5ClO2
solvent | potassium hydroxide | 2 N, 150 ml | [OH-].[K+]
solvent | potassium hydroxide | 2 N, 165 ml | [OH-].[K+]
solvent | potassium hydroxide | 5 N | [OH-].[K+]
product | 3-[8-quinolinoxy]-propionic acid | 16.12 g, 25% yield | N1=CC=CC2=CC=CC(=C12)OCCC(=O)O | C12H11NO3
